US04065500
13. N,N-Dimethyl-N-(p-aminophenacyl)-N-3-aminopropylammonium chloride
To a stirred solution of 143.5 parts of N-(3-dimethylaminopropyl)formamide and 700 parts of water is added 249 parts of p-acetamidophenacyl cloride. The mixture is stirred at room temperature for 16 l hours and then at 60°-65° C. for 2 hours. Insoluble material is removed by filtration. The filtrate is combined with one-half its volume of concentrated hydrochloric acid (36% by weight) and the resulting solution is heated at the boil for two hours. The aqueous solution of N,N-dimethyl-N-(p-aminophenacyl)-N-3-aminopropylammonium chloride is used as such in the preparation of dyes.

reactant | N-(3-dimethylaminopropyl)formamide | CN(CCCNC=O)C | C6H14N2O
reactant | p-acetamidophenacyl cloride | C(C)(=O)NC1=CC=C(C(CCl)=O)C=C1 | C10H10ClNO2
solvent | water | O | H2O
product | N,N-Dimethyl-N-(p-aminophenacyl)-N-3-aminopropylammonium chloride | [Cl-].C[N+](CCCN)(CC(=O)C1=CC=C(C=C1)N)C | InChI=1S/C13H21N3O.ClH/c1-16(2,9-3-8-14)10-13(17)11-4-6-12(15)7-5-11;/h4-7H,3,8-10,14H2,1-2H3,(H-,15,17);1H
